US04278516
Preparation of 2-fluoro-4-monobromomethylbiphenyl (3)
In this instance one equivalent of Br2 was added dropwise to a refluxing solution of 2-fluoro-4-methylbiphenyl and CCl4 while being irradiated with a sunlamp. NMR analysis showed the ratio of starting material:monobromide:dibromide to be 21:67:12.

reactant | Br2 | one equivalent | BrBr | Br2
reactant | 2-fluoro-4-methylbiphenyl | FC1=C(C=CC(=C1)C)C1=CC=CC=C1 | C13H11F
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-fluoro-4-monobromomethylbiphenyl | FC1=C(C=CC(=C1)CBr)C1=CC=CC=C1 | C13H10BrF
